Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9],5.66184743468
[C:4]([C:5]([H:6])([H:7])[H:8])([H:10])[H:11].[H:1][C:2][C:3]#[C:9][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.38178982541
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11],4.63205538847
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11],-1.73243732026
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.00714150091
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:8],4.23774458983
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],4.8518200272600005
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.14378864204
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:4],3.71691337131
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.11884403467
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.78645408281
[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:10]([H:11])([H:12])[H:13],5.105452560940001
[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.80880910097
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],2.90643611325
[O:1]=[C:2][C:9]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11]>>[O:1]=[C:2]1/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11],0.981904145649
[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.98256790487
[C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-0.8066634340809999
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-6.61540786494
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.97186652078
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.5997133059399995
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.84956027835
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[H:8],-2.99458802266
[C:2]([H:3])=[C:7]([H:8])[H:9].[O:1][C:5](=[O:4])[H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-4.53959035178
[H:1][C:2](=[C:3][H:4])[C:12]([O:11][C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:13])[H:14]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]1([H:13])[H:14],-4.40277324665
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[O:11][H:12],4.93474843701
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]1([H:8])[C:9][C:10]1[H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11],-1.56002786183
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.53563595184
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.87569389607
